US03932465
A solution of 1.51 g of 3-(4-hydroxy-benzyl)-7βphenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid diphenylmethylester in 40 ml of methylene chloride is cooled in an ice bath and treated with 0.52 g of purified 3-chloro-perbenzoic acid. The mixture is allowed to react for 1 hour at room temperature and the reaction solution is extracted successively with a 5% aqueous sodium hydrogen sulphite solution, a 0.5 molar aqueous dipotassium phosphate solution and water. The aqueous phases are re-extracted twice with small amounts of methylene chloride. The organic extracts are combined, dried over anhydrous magnesium sulphate and evaporated to dryness under reduced pressure. The residue is crystallised from a mixture of methyl acetate and cyclohexane and yields the 3-(4-hydroxybenzyl)-7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid diphenylmethyl ester-1-oxide, which after further crystallisation from a mixture of methyl acetate and cyclohexane and drying under a high vacuum for 20 hours at 35° melts at 192°-193°; [α]D20 = +36° ± 1° (c = 1.025 in dioxane); thin-layer chromatogram (silica gel: development with iodine): Rf = 0.18 (system: toluene/ethyl acetate 2:1), Rf = 0.36 (system: toluene/ethyl acetate 1:1), Rf = 0.24 (system: toluene/acetone 4:1), Rf = 0.07 (system: toluene/acetone 9:1) and Rf = 0.52 (system: methylene chloride/acetone 6:1); ultraviolet absorption spectrum (95% ethanol): λmax = 268 mμ (ε = 11300) and λmin = 241 mμ: infrared absorption spectrum (in mineral oil): characteristic bands at 2,94μ, 3,00μ, 5,60μ, 5,78μ, 5,85μ, 6,58μ, 6,65μ, 7,30μ, 7,99μ, 8,48μ, 8,70μ, 9,02μ, 9,78μ, 12,03μ, 13,45μ and 14,26μ.

reactant | 3-(4-hydroxy-benzyl)-7βphenylacetyl-amino-ceph-2-em-4ξ-carboxylic acid diphenylmethylester | 1.51 g | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1C(=C(S[C@H]2N1C([C@H]2C(CC2=CC=CC=C2)=O)=O)N)CC2=CC=C(C=C2)O | C35H30N2O5S
reactant | 3-chloro-perbenzoic acid | 0.52 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | methylene chloride | 40 ml | C(Cl)Cl | CH2Cl2
product | 3-(4-hydroxybenzyl)-7β-phenylacetyl-amino-ceph-3-em-4-carboxylic acid diphenylmethyl ester-1-oxide | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=O)C1=C(C(S([C@H]2N1C([C@H]2C(CC2=CC=CC=C2)=O)=O)=O)N)CC2=CC=C(C=C2)O | C35H30N2O6S
